US04521607
N-(5,6-Dimethoxy-1-indanyl)glycine (4.0 g) is suspended in 40 ml of dimethylacetamide, then 4.4 g of 3-acetylthio-2-acetylthiomethylpropionyl chloride is added dropwise with stirring at room temperature, and the mixture is stirred at room temperature for 2 hours. The reaction mixture is poured into 400 ml of water and extracted with 300 ml of ethyl acetate. The extract is washed with 30 ml of 10% hydrochloric acid and with water, and dried. After ethyl acetate is distilled off under reduced pressure, ethyl ether is added to the residue and the mixture is allowed to stand at room temperature. The resulting crystalline precipitates are collected by filtration to give 3.4 g of N-(3-acetylthio-2-acetylthiomethylpropionyl)-N-(5,6-dimethoxy-1-indanyl)glycine as colorless needles melting at 140°-143° C.

reactant | N-(5,6-Dimethoxy-1-indanyl)glycine | 4.0 g | COC=1C=C2CCC(C2=CC1OC)NCC(=O)O | C13H17NO4
reactant | 3-acetylthio-2-acetylthiomethylpropionyl chloride | 4.4 g | C(C)(=O)SCC(C(=O)Cl)CSC(C)=O | C8H11ClO3S2
reactant | water | 400 ml | O | H2O
solvent | dimethylacetamide | 40 ml | CC(=O)N(C)C | C4H9NO
product | N-(3-acetylthio-2-acetylthiomethylpropionyl)-N-(5,6-dimethoxy-1-indanyl)glycine | 3.4 g | C(C)(=O)SCC(C(=O)N(CC(=O)O)C1CCC2=CC(=C(C=C12)OC)OC)CSC(C)=O | C21H27NO7S2
